US04562281
To the same flask as used in Example 1 were added 340.51 g (1.0 mole) of 2,2'-methylenebis(6-tert-butyl-4-methylphenol), 72.06 g (1.0 mole) of acrylic acid, 400 g of n-heptane and 212.5 g (2.10 moles) of triethylamine. After replacing the air in the container with nitrogen, 200.7 g (0.70 mole) of phosphorus oxybromide was added dropwise with stirring. After completion of the dropwise addition, the reaction solution was kept at 80° C. for 1 hour. Thereafter, 500 g of water was added, and after cooling to room temperature, the deposited product was filtered off. The product obtained was washed with water until the washing became neutral to obtain 379.6 g of 2,2'-methylenebis(6-tert-butyl-4-methylphenol) monoacrylate as a white crystal. Melting point, 132°-134° C. Yield, 96%.

reactant | 2,2'-methylenebis(6-tert-butyl-4-methylphenol) | 1.0 mole, 340.51 g | C(C1=C(C(=CC(=C1)C)C(C)(C)C)O)C1=C(C(=CC(=C1)C)C(C)(C)C)O | C23H32O2
reactant | acrylic acid | 1.0 mole, 72.06 g | C(C=C)(=O)O | C3H4O2
reactant | triethylamine | 2.10 moles, 212.5 g | C(C)N(CC)CC | C6H15N
reactant | phosphorus oxybromide | 0.70 mole, 200.7 g | P(=O)(Br)(Br)Br | Br3OP
solvent | water | 500 g | O | H2O
solvent | n-heptane | 400 g | CCCCCCC | C7H16
product | 2,2'-methylenebis(6-tert-butyl-4-methylphenol) monoacrylate | 379.6 g | C(C=C)(=O)OC1=C(C=C(C=C1C(C)(C)C)C)CC1=C(C(=CC(=C1)C)C(C)(C)C)O | C26H34O3
